US07192968B2
(1S,2R)-N1-tert-Butoxycarbonyl-1,2-cyclohexanediamine
(1R,2S)-1-Azido-2-(tert-butoxycarbonylamino)-cyclohexane (174 mg) was dissolved in methanol (10 ml), and to the solution 10% palladium on carbon (120 mg) was added to conduct catalytic reduction under atmospheric pressure. The catalyst was separated by filtration, and the filtrate was concentrated to obtain a crude title compound (145 mg) as a colorless amorphous substance. This compound was used in the next reaction without purifying it.

reactant | (1R,2S)-1-Azido-2-(tert-butoxycarbonylamino)-cyclohexane | 174 mg | N(=[N+]=[N-])[C@H]1[C@H](CCCC1)NC(=O)OC(C)(C)C | C11H20N4O2
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on carbon | 120 mg | [Pd] | Pd
product | (1S,2R)-N1-tert-Butoxycarbonyl-1,2-cyclohexanediamine | 145 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)N | C11H22N2O2
